US04672064
In 60 ml of ethanol is suspended 6.0 g of 3-amino-7-methoxy-2H-1,5-benzoxathiepin-4-carbonitrile, and 18 ml of concentrated hydrochloric acid is added to the suspension, followed by stirring at 80 to 90° C. for 30 minutes. After the reaction mixture is cooled, ammonium chloride, which separates out, is filtered off, and the filtrate is concentrated under reduced pressure. The residue is recrystallized from ethyl acetate-hexane to give colorless prisms of 7-methoxy-3-oxo-3,4-dihydro-2H-1,5-benzoxathiepin-4-carbonitrile. Yield of 5.1 g, m.p. of 132°-133° C.

reactant | 3-amino-7-methoxy-2H-1,5-benzoxathiepin-4-carbonitrile | 6.0 g | NC=1COC2=C(SC1C#N)C=C(C=C2)OC | C11H10N2O2S
reactant | hydrochloric acid | 18 ml | Cl | ClH
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethanol | 60 ml | C(C)O | C2H6O
product | 7-methoxy-3-oxo-3,4-dihydro-2H-1,5-benzoxathiepin-4-carbonitrile | COC=1C=CC2=C(SC(C(CO2)=O)C#N)C1 | C11H9NO3S
